US05444082
(EZ)-9-Hydroxy-3-(2-(2-oxo-[5H]-4-furyl)vinyl)-spiro[5.5]undecane I-ai
Using the same reaction conditions described in Ex. 2 and 9-hydroxy-3-formyl-spiro[5.5]undecane (I-bc, Ex. 50) and dimethyl (2-oxo-[5H]-4-furyl)methylphosphonate (intermediate described in Ex. 2) as starting materials, the title compound (EZ)-9-hydroxy-3-(2-(2-oxo-[5H]-4-furyl)vinyl)-spiro-[5.5]undecane (I-ai) was obtained as an amorphous solid, identical to the one above described.

reactant | 9-hydroxy-3-formyl-spiro[5.5]undecane | OC1CCC2(CCC(CC2)C=O)CC1 | C12H20O2
reactant | dimethyl (2-oxo-[5H]-4-furyl)methylphosphonate | O=C1OCC(=C1)CP(OC)(OC)=O | C7H11O5P
product | (EZ)-9-hydroxy-3-(2-(2-oxo-[5H]-4-furyl)vinyl)-spiro-[5.5]undecane | OC1CCC2(CCC(CC2)C=CC2=CC(OC2)=O)CC1 | C17H24O3
